US04473579
A solution of 20.0 g of phosgene in 100 ml. of toluene is stirred at 0° C. while a solution of 32.6 g. of N-benzyl-n-butylamine in 50 ml. of toluene is added during 15 minutes. The mixture is filtered and the filtrate is evpaorated. The residue is evaporatively distilled at 105° C. under reduced pressure (250-350 microns) to yield N-benzyl-N-(n-butyl)carbamyl chloride as a colorless liquid.

reactant | phosgene | 20.0 g | C(=O)(Cl)Cl | CCl2O
reactant | N-benzyl-n-butylamine | C(C1=CC=CC=C1)NCCCC | C11H17N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-benzyl-N-(n-butyl)carbamyl chloride | C(C1=CC=CC=C1)N(C(=O)Cl)CCCC | C12H16ClNO
